US06617346B1
To a solution of 2-bromo-1-ethoxy-4-methyl-benzene (940 mg, 4.37 mmol) in dimethylformamide (5 mL) at room temperature was added zinc cyanide (513.1 mg, 4.37 mmol). The reaction mixture was degassed by passing argon through for 2 h before tetrakis(triphenylphosphine)palladium (505 mg, 0.437 mmol) was added. The reaction mixture was heated at 90-100° C. under argon for 12 h. The slurry reaction mixture was taken up in diethyl ether (10 mL) and sodium bicarbonate solution (2 mL). The product was extracted with diethyl ether (2×30 mL). The organic layers were washed with water (1×5 mL), brine (1×5 mL) and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 10% ethyl acetate in hexanes yielded 2-ethoxy-5-methyl-benzonitrile (232 mg, 33%).

reactant | 2-bromo-1-ethoxy-4-methyl-benzene | 4.37 mmol, 940 mg | BrC1=C(C=CC(=C1)C)OCC | C9H11BrO
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
catalyst | zinc cyanide | 4.37 mmol, 513.1 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.437 mmol, 505 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-ethoxy-5-methyl-benzonitrile | 232 mg, 33% | C(C)OC1=C(C#N)C=C(C=C1)C | C10H11NO
